US08013008B2
benzyl [2-(tert-butyldimethylsilyloxy)-4-hydroxy-1,3,3-trimethylbutyl]carbamate
To a mixed solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-(tert-butyldimethylsilyloxy)pentanoate (5.42 g) and calcium chloride (2.06 g) in THF (50 mL)-ethanol (25 mL) was added sodium borohydride (1.56 g) and the mixture was stirred at room temperature for 13 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/1) to give the title compound as a colorless solid (yield: 1.38 g, yield: 28%).

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-(tert-butyldimethylsilyloxy)pentanoate | 5.42 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(C)C)O[Si](C)(C)C(C)(C)C)C | C23H39NO5Si
reactant | calcium chloride | 2.06 g | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | sodium borohydride | 1.56 g | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | benzyl [2-(tert-butyldimethylsilyloxy)-4-hydroxy-1,3,3-trimethylbutyl]carbamate | yield: 1.38 g, yield: 28% | [Si](C)(C)(C(C)(C)C)OC(C(C)NC(OCC1=CC=CC=C1)=O)C(CO)(C)C | C21H37NO4Si
